US07119115B2
3 cm3 of aqueous 1N sodium hydroxide solution are added to a solution of 0.55 g of 3-iodo-6,6-diphenyl-1-(4-toluenesulphonyl)-6,7-dihydro-1H-indazole in 10 cm3 of tetrahydrofuran. After stirring for about 36 hours at a temperature in the region of 20° C., 30 cm3 of ethyl acetate are added. After separation of the phases by settling, the organic phase is washed with three times 15 cm3 of water, 20 cm3 of saturated aqueous sodium chloride solution, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (13 kPa). 0.436 g of 3-iodo-6,6-diphenyl-6,7-dihydro-1H-indazole is obtained in the form of a solid, the characteristics 30′ of which are as follows:

reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | 3-iodo-6,6-diphenyl-1-(4-toluenesulphonyl)-6,7-dihydro-1H-indazole | 0.55 g | IC1=NN(C=2CC(C=CC12)(C1=CC=CC=C1)C1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)C | C26H21IN2O2S
reactant | ethyl acetate | 30 cm3 | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 cm3 | O1CCCC1 | C4H8O
product | 3-iodo-6,6-diphenyl-6,7-dihydro-1H-indazole | 0.436 g | IC1=NNC=2CC(C=CC12)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15IN2
